Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amlodipine / Amoxicillin / Benadryl / Erythromycin Base / 
potassium / lisinopril / metoprolol / Plavix / felodipine
 
Attending: ___.
 
Chief Complaint:
Fevers, malaise, rigors, abnormal labs.
 
Major Surgical or Invasive Procedure:
Cardiac catheretization with placement of bare metal stent in 
RCA. (___)

 
History of Present Illness:
___ w/ CAD s/p CABG (___), sCHF (EF ___, presents with 
malaise, fatigue, fever and decreased PO intake x4 days.  
Pt reports 4 day history of fatigue, malaise, nausea, and poor 
PO intake. He had one episode of loose stools but has had normal 
stools since. He denies fevers, vomiting, cough, dysuria, 
abdominal pain, shortness of breath. He has not been taking his 
medications for the last 3 days due to poor energy.  
He presented to ___, where he was told his lab values 
were low (Mag 1.6, Na 125), he was given 1L IVF, CXR was 
performed which was read as normal, and he was sent here for 
further evaluation.  
Of note, pt had 4 vessel CABG performed at ___ on ___. 
Subsequent TTE showed EF of ___.  
In the ED, initial vitals were: 101 97 103/63 18 97% RA  
- Labs were significant for: WBC 3.7 with 70.9% PMNs, 
hyponatremia to 125, UA without evidence of pyuria.  
- No imaging was performed.  
- The patient was given: nothing.  
Vitals prior to transfer were: 98.9 101 123/96 18 99% RA  
Upon arrival to the floor, pt confirmed the above history and 
was alert and oriented. He denies exposure to ticks or walking 
in wooded areas. He denies redness or drainage from his chest 
incision. He was written for IV vancomycin, cefepime, and 1L 
IVF.  
Pt triggered at 2am for tachycardia to 160s, tachypnea to ___, 
temp to 102.3. He was rigoring, diaphoretic, and confused. 
Vancomycin was infusing but other medications and fluids had not 
yet been given. See trigger note for full details but given 
peripheral o2 sat monitoring reading 70%, he was placed on NRB. 
ABG showed 7.35/35/285, lactate 3.8. He was given 2L IVF, 
vancomycin, cefepime 2g, demerol 12.5mg, tylenol 1g. Foley 
placed. Repeat CXR and EKG were performed showing ?LLL 
infiltrate and sinus tach, respectively. Given ABG showing 
adequate oxygenation o2 was decreased to NC. ICU consult was 
called, ICU team came to bedside to assess. Over next ~30 min pt 
started to improve, with HR decreasing to 130s, rigors 
improving, and mental status improving, so pt was thought to be 
appropriate to stay on the floor.  
Over the next few hours he improved and by reevaluation at 4am 
was again A&Ox3 and mentating. Repeat lactate at 5am was 0.9. 
Given additional 1L IVF (3rd liter since admit).  
REVIEW OF SYSTEMS: As per HPI  

 
Past Medical History:
Coronary artery bypass graft x4, left internal mammary artery to 
left anterior descending artery, saphenous vein graft to right 
coronary artery, and saphenous vein sequential graft to ramus 
and obtuse marginal arteries.
Hypertension
Hyperlipidemia
COPD
Asbestosis exposure
Carotid artery disease s/p left CEA in ___
PAD s/p aorto-bifemoral bypass grafting ___
Anemia
Insomnia
Recurrent transitional bladder cancer s/p TURP x 3
Restless leg syndrome
Prior heavy ETOH use
Old TB- s/p treatment with INH in ___
Depression
Anxiety
Sepsis of unknown source ___
Past Surgical History:
Emergent abdominal surgery after a traumatic accident in ___ 
Cataract surgery, bilateral
Left CEA in ___
Aorto-Bifemoral bypass grafting ___
TURP x3
BMS stent of RCA ___

 
Social History:
___
Family History:
Premature coronary artery disease- Father had a
"hole in his heart" died at age ___ from lung disease and
alcoholism. Mother died at age ___ from TB

 
Physical Exam:
ADMISSION EXAM
===============
Vitals: 101 131/67 98 18 96% on RA  
(MOST RECENT VITALS: 99/60, 110, 20, 96% on 2L)  
General: pleasant elderly man, ill and fatigued appearing  
HEENT: Sclera anicteric, MM dry, oropharynx clear, EOMI  
Neck: Supple, JVP not elevated  
CV: tachycardic, normal S1 + S2, no murmurs, rubs, gallops  
Chest: 12inch midline incision well healed and without 
surrounding erythema, edema, or fluctuance  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNII-XII intact, normal strenght, gait deferred. A&OX3 
and conversant.  

DISCHARGE EXAM
==============
Vitals:  98.3 97.9 143/57 (115-140/50-80) 70s-90s 20 98% on RA 
General: alert, oriented, seated comfortably. 
HEENT: sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not appreciated, no LAD  
Lungs: CTAB.   
CV: regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
GU: no foley. Groin site with mild serosanguinous drainage.   
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Non focal 

 
Pertinent Results:
ADMISSION RESULTS
=================
___ 04:16PM BLOOD Glucose-116* UreaN-9 Creat-0.8 Na-125* 
K-4.0 Cl-90* HCO3-25 AnGap-14
___ 04:16PM BLOOD WBC-3.7* RBC-3.95* Hgb-10.2* Hct-31.4* 
MCV-80* MCH-25.8* MCHC-32.5 RDW-15.5 RDWSD-44.9 Plt ___
___ 04:16PM BLOOD Neuts-70.9 Lymphs-7.9* Monos-19.8* 
Eos-0.3* Baso-0.3 Im ___ AbsNeut-2.62 AbsLymp-0.29* 
AbsMono-0.73 AbsEos-0.01* AbsBaso-0.01
___ 04:16PM BLOOD Albumin-3.6 Calcium-9.1 Phos-3.3 Mg-2.5
___ 01:38AM BLOOD Type-ART pO2-285* pCO2-35 pH-7.34* 
calTCO2-20* Base XS--5

DISCHARGE RESULTS
=================

___ 06:10AM BLOOD Glucose-94 UreaN-4* Creat-0.7 Na-134 
K-3.8 Cl-100 HCO3-26 AnGap-12
___ 06:10AM BLOOD WBC-2.8* RBC-3.76* Hgb-9.6* Hct-29.7* 
MCV-79* MCH-25.5* MCHC-32.3 RDW-16.3* RDWSD-46.8* Plt ___
___ 06:10AM BLOOD Neuts-64.7 Lymphs-14.2* Monos-18.5* 
Eos-1.8 Baso-0.4 Im ___ AbsNeut-1.82 AbsLymp-0.40* 
AbsMono-0.52 AbsEos-0.05 AbsBaso-0.01
___ 06:10AM BLOOD Calcium-8.7 Phos-4.4 Mg-2.1

CARDIAC WORKUP
==============

___ 07:00AM BLOOD cTropnT-0.01
___ 09:00AM BLOOD CK-MB-2 cTropnT-0.01
___ 03:15PM BLOOD cTropnT-0.02*
___ 12:59AM BLOOD cTropnT-0.01

MICROBIOLOGY
============
URINE CULTURE (Final ___:    NO GROWTH. 
BLOOD CULTURE (___): PENDING
BLOOD CULTURE (___): PENDING

IMAGING
=======

CXR (___)  Mild to moderate cardiomegaly is a stable.  Mild 
pulmonary edema has worsened. Bibasilar opacities consistent 
with atelectasis left greater than right have increased.  
Presumed bilateral pleural effusions are small.  Calcified 
mediastinal lymph nodes are again noted. 

ECG ___ 8:30am): New t-wave inversions in leads V1-V6 with 
t-wave flattening in leads I, II, aVL. 

ECHO (___): 
The left atrium is mildly dilated. Left ventricular wall 
thicknesses are normal. The left ventricular cavity size is 
normal. There is moderate to severe global left ventricular 
hypokinesis with regional variation; inferior wall, posterior 
wall, and apex are severely hypokinetic (LVEF = 30 %). The right 
ventricular free wall thickness is normal. Right ventricular 
chamber size is normal. with borderline normal free wall 
function. There are focal calcifications in the aortic arch. The 
number of aortic valve leaflets cannot be determined. The aortic 
valve leaflets (3) are mildly thickened but aortic stenosis is 
not present. No aortic regurgitation is seen. The mitral valve 
leaflets are mildly thickened. Moderate (2+) mitral 
regurgitation is seen. There is a small to moderate sized 
pericardial effusion. The effusion appears circumferential. 
There are no echocardiographic signs of tamponade. 

 
Brief Hospital Course:
___ w/ CAD s/p CABG (___), sCHF (EF ___, presenting with 
nausea, malaise, found to have severe sepsis with unknown source 
and worsening LVEF and progressive RCA stenosis requiring bare 
metal stenting (___).

# Severe sepsis: The patient was transferred to the ___ from 
OSH for management of sepsis and hyponatremia. He presented with 
fevers, chills, malaise, confusion, poor PO intake, nausea, and 
vomiting for 4 days prior to arrival. On arrival he was found to 
be febrile to 101, leukopenic to 3.7 (dropping to 1.8) and 
hyponatremic to 125. CXR and UA were unremarkable. On HD1 he 
became tachycardic to the 160s tachypnic to ___ and O2 sats were 
70%  on the floor. He was found to be rigoring, diaphoretic, and 
confused. CXR showed LLL retrocardiac atelectasis but no 
consolidation. EKG showed sinus tachycardia. It was noted that 
he was receiving vancomycin but had not received cefepime. He 
was given vancomycin, cefepime, demerol, tylenol, and 2L IVF. He 
remained on Vancomycin and Cefepime from ___. He remained 
afebrile for 72 hours and antibiotics were discontinued. The 
symptoms of malaise, confusion, and nausea improved. His 
hyponatremia improved over the course of the admission with IVF 
and improved PO intake. His leukopenia has overall been 
improving with some fluctations. Urine and blood cultures were 
negative. He remained afebrile for over 48 hours after 
antibiotics.

#CAD: On HD3, it was noted that he was short of breath, 
diaphoretic, and was complaining of substernal chest pain. He 
described the pain as pleuritic and located at the sternal 
incision site. An EKG showed T-wave inversions in leads V1-V6 
with some T-wave flattening in I and II compared to prior. 
Repeat EKG showed deeping of the T-wave inversions. Trops were 
negative x2. A CXR showed mild worsening of pulmonary edema. His 
SOB improved after lasix 20mg x 2. An Echo showed inferior wall, 
posterior wall, and apex as severely hypokinetic (LVEF = 30 %). 
Cardiology was consulted and it was decided that catheterization 
was appropriate in the setting of ongoing EKG changes and echo 
findings despite the atypical nature of his pain. 
Catheterization showed 80% stenosis of the RCA requiring BMS. He 
had one episode of shortness of breath on HD4. Repeat EKG showed 
no changes. Initial troponin was positive but serial was 
negative. He is on medically optimized therapy with aspirin, 
losartan, clopidogrel (for a 1 month course started on ___, 
atorvastatin, and carvedilol. 

#Hyponatremia: The patient had hypovolemic hyponatremia in the 
setting of poor PO intake over last several days. His mental 
status changes were more likely attributable to worsening 
sepsis. Improved with fluid resuscitation and PO intake. 

#COPD: Was managed with Fluticasone-Salmeterol Diskus (250/50) 1 
INH IH BID, Tiotropium Bromide 1 CAP IH DAILY , 
Ipratropium-Albuterol Neb 1 NEB NEB Q6H 

#HTN: Initially held carvedilol in setting of sepsis. Restarted 
prior to discharge.

#BPH: Tamsulosin held in setting of hypotension. 

TRANSITIONAL ISSUES
===================
-Follow-up with cardiology regarding worsening LVEF and CAD. Dry 
weight on discharge 72.8 lbs
-Received a bare metal stent so on clopidogrel for one month 
(Day 1 ___.  
-Reassess patient's ADLs. Consider assistance at home or 
assissted living.
-Hypertension: Tamsulosin, losartan, and carvedilol were 
initially held in the setting of hypertension. Carvedilol was 
restarted on ___.  Losartan was restarted on day of discharge. 
Blood pressures should be monitored in the outpatient setting 
prior to restarting.
-GERD: Switched to lansoprazole as taking Plavix.
-Tachycardia, had a persistent heart rate around 100. Improved 
at time discharge with heart rate in the 70-90s.
-Leukopenia: WBC consistently below 3 in hospital. Please 
recheck on discharge.
-CONTACT: ___ (daughter) ___  
-CODE: DNR/DNI Pt states that having seen friends go through 
resuscitation and become "vegetables," he does not want to be on 
machines even if this was for something reversible.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN COPD 
2. Aspirin EC 81 mg PO DAILY 
3. Carvedilol 3.125 mg PO BID 
4. Docusate Sodium 100 mg PO BID 
5. FoLIC Acid 1 mg PO DAILY 
6. Multivitamins 1 TAB PO DAILY 
7. Furosemide 20 mg PO BID 
8. Potassium Chloride 20 mEq PO BID 
9. Pramipexole 0.5 mg PO BID 
10. Ranitidine 150 mg PO BID 
11. Thiamine 100 mg PO DAILY 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. Tamsulosin 0.4 mg PO QHS 
14. Losartan Potassium 25 mg PO DAILY 
15. Omeprazole 20 mg PO DAILY 
16. TraZODone 50 mg PO QHS:PRN sleep 
17. Mirtazapine 15 mg PO QHS 
18. Atorvastatin 40 mg PO QPM 
19. Ferrex ___ (polysaccharide iron complex) 150 mg iron oral 
DAILY 
20. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
inhalation BID 
21. Cyanocobalamin 1000 mcg PO BID 
22. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 

 
Discharge Medications:
1. Albuterol Inhaler 1 PUFF IH Q6H:PRN COPD 
2. Aspirin EC 81 mg PO DAILY 
3. Atorvastatin 40 mg PO QPM 
4. Carvedilol 3.125 mg PO BID 
5. Fluticasone-Salmeterol Diskus (250/50)  1 INH IH BID 
6. FoLIC Acid 1 mg PO DAILY 
7. Furosemide 20 mg PO BID 
8. Multivitamins 1 TAB PO DAILY 
9. Pramipexole 0.5 mg PO BID 
10. Ranitidine 150 mg PO BID 
11. Thiamine 100 mg PO DAILY 
12. Tiotropium Bromide 1 CAP IH DAILY 
13. TraZODone 50 mg PO QHS:PRN sleep 
___ Tab at night for sleep. 
14. Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth DAILY Disp #*30 
Tablet Refills:*0
15. Cyanocobalamin 1000 mcg PO BID 
16. Ferrex ___ (polysaccharide iron complex) 150 mg iron oral 
DAILY 
17. Losartan Potassium 25 mg PO DAILY 
18. Mirtazapine 15 mg PO QHS 
19. Symbicort (budesonide-formoterol) 160-4.5 mcg/actuation 
INHALATION BID 
20. Tamsulosin 0.4 mg PO QHS 
21. Potassium Chloride 20 mEq PO BID 
Hold for K > 
22. Docusate Sodium 100 mg PO BID 
23. Lansoprazole Oral Disintegrating Tab 30 mg PO DAILY 
RX *lansoprazole 30 mg 1 capsule(s) by mouth DAILY Disp #*30 
Capsule Refills:*0
24. Outpatient Physical Therapy
Cardiac Rehabilitation

Diagnosis: Systolic heart failure
Prognosis: Fair
ICD-9: 428.0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSES
===================
-Sepsis
-Congestive heart failure
-Coronary artery disease s/p BMS to RCA
-Hyponatremia

SECONDARY DIAGNOSES
===================
-Hypertension
-BPH
-Alcohol abuse
-Restless leg syndrome
-GERD

 
Discharge Condition:
Mental Status: Confused - sometimes.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the ___ 
in the setting of fevers, fatigue, chills, and nausea. On 
arrival you were found to be having shakes, high fevers, and low 
blood pressures. You were stabilized with antibiotics and IV 
fluids. Your condition improved over the course of the next ___ 
hours. We continued you on the antibiotics for 4 days and 
discontinued them after you were asymptomatic and not having 
fevers. We did search for a source of your infection but all of 
our laboratory results did not reveal a cause. It is possible 
that you had a transient infection that spread to your blood and 
this was thus completely treated by the antibiotics that you 
were on.

Additionally, during this hospital stay you developed shortness 
of breath and chest pain. We did an ultrasound of your heart 
which revealed possible injury. Cardiology became involved in 
your care and thought it would be best to get a catheretization 
image of your heart. This procedure revealed a blockage in a 
heart vessel that required a stent placement. We monitored your 
heart for a few days after the procedure and you were stable. 

It is important that you follow up with your primary care 
physician and with cardiology. Please weigh yourself every 
morning, call MD if weight goes up more than 3 lbs.

It was a pleasure to take care of you. We wish you the very 
best!

Sincerely, 

Your ___ care team
 
Followup Instructions:
___